US09034900B2
Step 1: 3-bromo-2-(cyclopropylmethoxy)-5-nitropyridine
A solution of 3-bromo-2-chloro-5-nitropyridine (2.4 g, 10 mmol) and cyclopropylmethanol (970 uL, 12 mmol) in THF (50 ml) was treated with KOtBu (3.3 g, 15 mmol). After stirring at rt for 12 h, the mixture was treated with water (150 ml) and extracted with EtOAc (3×50 ml); the combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow solid. The solid was purified by silica gel column chromatography using a gradient of EtOAc (5 to 30%) in hexanes to afford the title compound (1.3 g, 48%) as a yellow solid. LCMS (M+H)+=274.

reactant | 3-bromo-2-chloro-5-nitropyridine | 10 mmol, 2.4 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | cyclopropylmethanol | 12 mmol, 970 uL | C1(CC1)CO | C4H8O
reactant | KOtBu | 15 mmol, 3.3 g | CC(C)(C)[O-].[K+]
reactant | water | 150 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-bromo-2-(cyclopropylmethoxy)-5-nitropyridine | 1.3 g, 48% | BrC=1C(=NC=C(C1)[N+](=O)[O-])OCC1CC1 | C9H9BrN2O3
